Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
palpitations, shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___  with palpitations and shortness of breath at rehab. He 
underwent an aortic valve replacement, mitral chordal repair, 
and asending aorta replacement on ___. He was found to have 
afib with RVR with hypotension and SOB at rehab. He reports he 
was feeling well at rehab with occasional transient episodes of 
light palpitations and SOB over the past 3 days that quickly 
resolved, but then on the day of admission had sudden onset 
worse palpitations and SOB, orthopnea that did not resolve all 
day. Was found to have HR 180s-200s BP 94/64, 98%RA. Denied 
chest pain. Has had leg swelling L>R since the surgery, US neg 
for DVT at rehab per report. Also noted to have stage 1 sacral 
ulcer and leukocytosis on ___ evaluation, per report CXR UA 
neg. 

Of note: Hosptialized ___ for  AVR + MV repair + 
Ascending Aorta Replacement for Mixed AR and AS, MR with flail 
anterior mitral leaflet and ascending Aortic Aneurysm.  
Operation was done here at ___ by Dr. ___ ___. Post 
operatively pnt was started on Beta blockers and was diuresed 
toward the preoperative weight. Free water was restricted for 
mild hyponatremia, which improved prior to discharge.  He had a 
brief episode of rapid Atrial Fibrillation, which converted to 
SR with IV lopressor and titration of Atenolol. He was 
discharged on POD 5, no discharge weight available.  

In the ED: 
Admission vitals: 120 ___ 100% Non-Rebreather.
EKG: AFIB/RVR to 120, LAHB + LBBB which are baseline. 
CXR: Decrease in size of moderate left and small right pleural 
effusion with bibasilar atelectasis. 
Labs remarkable for leukocytosis 14.2 with 86% Neu which is new, 
sodium 129, K = 5.2, 4.7 on recheck. mild non gap acidosis (no 
albumin with HCO3 at 20. Cr 1.2 at baseline over past month or 
2.   
FAST: pleural effusion. no cardiac effusion.
. 
Subsequently in the ED HR 120-130's, pressures in the 80___-90___, 
GIven 500 NS, no rate or rhythm control. Admitted to ___ after 
discusion with cardiac surgery. 

On review of systems, he complains of dry painful sensation in 
his throat , denies fevers, chills, myalgias, headache, N/V/D, 
constipation, abdominal pain, chest pain, dysuria, cough. 

 
Past Medical History:
Mixed AR and AS, MR ___ flail anterior mitral leaflet 
and ascending Aortic Aneurysm. S/P. AVR, Repair of mitral valve 
chordae and Ascending Aorta Replacement ___
Osteoarthritis
Congenital hypospadias
GERD and ___ Esophagus
Anemia

Past Surgical History:
s/p Bilateral total knee replacement
s/p Left and right inguinal hernia repair
s/p Appendectomy
s/p bilateral GSV stripping
 
Social History:
___
Family History:
father with "angina" late in life

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T=98.1 BP=118/81 HR= 67 RR=22 O2 sat=100%2L  
GENERAL: Ill appearing male in NAD, Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  Conjunctiva pink, 
no pallor or cyanosis of the oral mucosa, MMM
NECK: Supple with JVP of 5 cm.  
CARDIAC: RR, normal S1, S2. No r/g. ___ systolic murmur over 
LUSB. No thrills, lifts. No S3 or S4.  
LUNGS: sternotomy incision healing well without signs of 
infection. No chest wall deformities, scoliosis or kyphosis. 
Resp were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  Decreased breath sounds and dullness to 
percussion half way up on Left posteriorly
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: trace edema on right, 1 + on left, no calf 
tenderness, no cords palpated. L groin ecchymosis non-tender No 
femoral bruits.   L wrist access site no ecchymosis or hematoma 
PULSES:  2+ radial and DP pulses bilat

DISCHARGE PHYSICAL EXAMINATION:  
VS: 98.2, 108/61 (sbp 90-123), HR 65 (60s), RR 18, 100%  
I/O: 1640po/319 5urine weight 72.2=>71.4kg (157 lbs)  
GENERAL: pale frail male in NAD, Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, 
MMM. OP clear  
CARDIAC: RRR, normal S1, S2. No r/g. ___ systolic murmur over 
LUSB. No thrills, lifts. No S3 or S4.  
LUNGS: sternotomy incision healing well without signs of 
infection. Resp unlabored, no accessory muscle use. No crackles. 
No wheezes or rhonchi. Decreased breath sounds at base on Left 
ABDOMEN: +BS Soft, NTND. No HSM or tenderness.  
EXTREMITIES: trace edema on left, 1 + on left L groin ecchymosis 
non-tender No femoral bruits.  
PULSES: 2+ radial and DP pulses bilat  

 
Pertinent Results:
ADMISSION LABS:
___ 04:00PM BLOOD WBC-14.2*# RBC-3.73* Hgb-11.2* Hct-34.3* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-13.8 Plt ___
___ 04:00PM BLOOD Neuts-86.3* Lymphs-6.6* Monos-5.1 Eos-1.6 
Baso-0.4
___ 04:00PM BLOOD ___ PTT-30.5 ___
___ 04:00PM BLOOD Glucose-123* UreaN-28* Creat-1.2 Na-129* 
K-5.2* Cl-98 HCO3-20* AnGap-16
___ 06:47AM BLOOD Calcium-8.7 Phos-3.9 Mg-1.9
___ 04:00PM BLOOD TSH-7.2*
___ 04:14PM BLOOD Lactate-1.4 K-4.7
___ 04:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 04:30PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1

DISCHARGE LABS:
___ 06:51AM BLOOD WBC-6.5 RBC-3.85* Hgb-11.1* Hct-34.1* 
MCV-89 MCH-28.7 MCHC-32.4 RDW-13.6 Plt ___
___ 06:51AM BLOOD ___
___ 06:51AM BLOOD Glucose-95 UreaN-20 Creat-0.8 Na-132* 
K-4.6 Cl-97 HCO3-28 AnGap-12
___ 06:51AM BLOOD Calcium-8.7 Phos-4.2 Mg-2.0

MICRO:
___ Blood Culture, Routine-NEG FINAL
___ Blood Culture, Routine-NEG FINAL 

IMAGING: 
CXR ___
FINDINGS: Two views were obtained of the chest.  Improved small 
right and 
unchanged moderate left pleural effusions are accompanied by 
basal 
atelectasis.  The lungs are otherwise clear.  Moderate 
cardiomegaly is mildly decreased from previous examination with 
intact sternotomy wires and valvuloplasty ring noted. 
IMPRESSION: Decrease in size of small right and unchanged 
moderate left  
pleural effusion with accompanying bibasilar atelectasis. 

pCXR ___
Portable AP radiograph of the chest was reviewed in comparison 
to ___.  Cardiomegaly is severe, unchanged.  Left 
retrocardiac consolidation and pleural effusion are unchanged.  
Lungs are essentially clear at the upper and mid portions.  No 
pneumothorax is demonstrated.

___ TTE 
The left atrium is moderately dilated. The right atrium is 
markedly dilated. There is mild symmetric left The left atrium 
is moderately dilated. The right atrium is markedly dilated. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is moderate to severe global left ventricular 
hypokinesis (LVEF = 25 %). No masses or thrombi are seen in the 
left ventricle. Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size is normal. with mild global free wall 
hypokinesis. The aortic root is mildly dilated at the sinus 
level. A bioprosthetic aortic valve prosthesis is present. The 
aortic valve prosthesis appears well seated, with normal leaflet 
motion and transvalvular gradients. A mitral valve annuloplasty 
ring is present. The mitral annular ring appears well seated 
with normal gradient. An eccentric, jet of mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is high normal. There is no pericardial effusion.

IMPRESSION: Symmetric left ventricular hypertrophy with normal 
cavity size and global hypokinesis Normal functioning aortic 
valve bioprosthesis and mitral valve repair. Dilated aortic 
sinus.

 

 
Brief Hospital Course:
___ s/p recent surgical AVR, MV repair and asending aorta 
replacement discharged on high dose furosemide now admitted with 
hypovolemia, hypotension and afib with RVR not responsive to 
metoprolol, but rate controlled with atenolol and sotalol.

# Paroxysmal Atrial fibrillation with rapid ventricular 
response: 
High dose Metoprolol 100 mg po TID was ineffective at rate 
control. So was started on atenolol 50 mg po BID and sotalol. 
His QTc stayed 440-470 on sotalol. He had brief episodes of HR 
dropping to the ___ due to concealed PACs. Atenolol was 
decreased to 25 mg po BID.

Patient started on warfarin this admission, received nutrition 
education for warfarin. INR will be followed by Dr. ___.

# Arrythmia: concealed PACs which blocked at AV node and sinus 
giving bradycardia. Dose of atenolol decreased. Pt also had 2.2 
sec run of WCT (6 beats, CL 400ms). No Sx. Will follow with Dr. 
___.

# Hyponatremia: Most likely from daily furosemide use vs 
hypovolemic hyponatremia as improved with IVF and improvement of 
hypotension, but then downtrended slightly with increased dose 
of furosemide.

# Leukocytosis: Noted to have WBC 17K at rehabilitation, which 
continued to downtrend until normal this admission without 
antibiotics. Urine cultures and chest xray as well as blood 
cultures were unrevealing. No diarrhea noted to suggest c. diff. 
Surgical incision without signs of infection.  

# CHF: He was not volume overloaded at admission. In fact, he 
was dehydrated due to increase in dose of diuretics at rehab in 
the week prior to admission. CHF and decline in LV systolic 
function was indication to replace AVR. Dry weight at discharge 
is 157 lbs. Attention to whether he needs diuretic and at what 
dose will be done as outpatient as he resolves ___ space pleural 
fluid in the post-op course. Systolic blood pressures were in 
the ___ this admission, so ACEI or spironolactone were not 
added to regimen.

# Cough: Most likely viral URI with post nasal drip causing 
cough, but also possibly from GERD, atelectasis, or URI. Given 
prolonged sx and constellation of symptoms, did not suspect 
influenza. CXR showed left post surgical pleural effusion and 
bibasilar atelectasis. Patient was afebrile throughout admission 
and leukocytosis resolved without intervention. He was treated 
with benzonatate and guaifenesin cough syrup. 

# Recent cardiac surgery: Wound appeared clean and dry, no sign 
of infection, bypass access sites with healing ecchymosis  as 
well. Cardiac surgery made aware of admission, Mr. ___ has 
outpatient follow up with them. 

# GERD: continued PPI. There was a report of guaiac positive 
brown stool from rehabilitation center when he was not on 
warfarin. CBC was stable, no bloody or melanotic stools 
observed. Stool guiac near end of admission when he was on 
warfarin was negative for occult blood.

# Elevated TSH: ___ sick euthyroid picture gien recent cardiac 
surgery. Will have outpatient follow up after recovery from 
acute illness/recent surgery

# Nutrition: iron supplement

# Anxiety: lorazepam 0.5mg PO daily prn

# Insomnia: zolpidem 5mg QHS prn

# Rehab: HE was able to walk 60+ feet on level ground and climb 
1 flight of stairs. He should continue walking and stairs 
exercise at home. 

TRANSITIONAL ISSUES:
- Started warfarin for atrial fibrillation. INR to be followed 
by Dr. ___ on discharge with coumadin dose adjusted 
to achieve INR in ___ range.
- Admitted from rehab just before planned discharge home from 
there, patient discharged from ___ with home physical therapy
- discharge weight was 71.4kg (standing)
- Full code, wife is HCP ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AtroVENT *NF* (ipratropium bromide) 0.03%  NU 1 spray BID 
2. Omeprazole 40 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Atenolol 25 mg PO BID Duration: 1 Doses 
hold for SBP < 90 or HR < 60 
6. traZODONE 12.5 mg PO HS:PRN sleep 
7. Bisacodyl 10 mg PO DAILY:PRN constipation 
8. Guaifenesin ___ mL PO Q6H:PRN cough 
9. Senna 2 TAB PO DAILY:PRN constipation 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB: Wheezing 
11. Lorazepam 0.5 mg PO QDAY:PRN anxiety 
12. Furosemide 80 mg PO DAILY 
13. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
ER formulation 
14. guaiFENesin AC *NF* (codeine-guaifenesin) 200mg-20mg per 
10mL Oral QHS: PRN cough 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB: Wheezing 
RX *albuterol  1 puff every six (6) hours Disp #*1 Inhaler 
Refills:*0
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0
4. AtroVENT *NF* (ipratropium bromide) 0.03%  NU 1 spray BID 
5. Lorazepam 0.5 mg PO QDAY:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0
7. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0
8. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
RX *zolpidem 5 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0
9. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
ER formulation 
RX *potassium chloride 10 mEq 2 tablets by mouth once a day Disp 
#*60 Tablet Refills:*0
10. Benzonatate 100 mg PO TID cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*42 Capsule Refills:*0
11. Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl [Laxative] 5 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
12. Furosemide 60 mg PO DAILY 
RX *furosemide 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0
13. Warfarin 3 mg PO DAILY16 
This dose may change according to your INR. Please following Dr. 
___ regarding dosing after each INR blood draw. 
 
RX *warfarin 1 mg 3 tablet(s) by mouth once daily at 4pm Disp 
#*90 Tablet Refills:*0
14. Atenolol 25 mg PO BID Duration: 1 Doses 
RX *atenolol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
15. Sotalol 120 mg PO BID 
RX *sotalol 120 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 1) atrial fibrillation with rapid ventricular response; 
2) Hypotension; 3) Dehydration 4) Anemia due to blood loss; 5) 
s/p aortic valve replacement; 6) s/p mitral valve chordae 
repair; 7) s/p asecending aortic repair; 8) anxiety; 9) 
bradycardia; 10) hypomagnesemia; 11) abnormal EKG; 12) Left 
ventricular hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you during your hospitalization at 
___. You were admitted for a fast irregular heart rate (called 
atrial fibrillation) and low blood pressures. Your symptoms 
improved with medications to slow your heart rate down. To 
minimize your risk of complication(s) with this irregular rhythm 
you were started on a blood thinner called warfarin (or 
coumadin). This medicine requires regular requires frequent 
monitoring of a blood test called INR, which you will follow up 
with Dr. ___. While taking this medication it is important 
that you avoid leafy greens or other foods high in vitamin K. 
Please seen medical attention if you experience bleeding on this 
medication.

Please weigh yourself every morning, call your doctor if weight 
goes up more than 3 pounds in a day or 5 pounds in a week. Your 
weight on our scale on the day of discharge was 71.4kg (157.4 
pounds).
 
Followup Instructions:
___